US07405302B2
Step 2: Synthesis of 3 -[1-(4-Chloro-benzyl)-3-(3,3-dimethyl-butyryl)-5-methoxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid
3-[1-(4-Chloro-benzyl)-3-(3,3-dimethyl-butyryl)-5-methoxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester (0.020 g, 0.04 mmol) was dissolved in MeCN (1 mL). 1N LiOH (0.16 mL, 0.16 mmol) was added and the reaction was heated to 60° C. overnight. Once no starting material was seen by LCMS, the reaction was cooled to room temperature and diluted with EtOAc and water. The mixture was neutralized with solid citric acid to ˜pH 5, the aqueous layer was extracted three times with EtOAc, the combined organics were washed twice with water, once with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by HPLC to give the desired acid. LCMS (ESI) M+H 471.

reactant | 3-[1-(4-Chloro-benzyl)-3-(3,3-dimethyl-butyryl)-5-methoxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid ethyl ester | 0.04 mmol, 0.020 g | C(C)OC(C(CC1=C(C2=NC(=CC=C2N1CC1=CC=C(C=C1)Cl)OC)C(CC(C)(C)C)=O)(C)C)=O | C28H35ClN2O4
reactant | LiOH | 0.16 mmol, 1N, 0.16 mL | [Li+].[OH-]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3 -[1-(4-Chloro-benzyl)-3-(3,3-dimethyl-butyryl)-5-methoxy-1H-pyrrolo[3,2-b]pyridin-2-yl]-2,2-dimethyl-propionic acid | ClC1=CC=C(CN2C(=C(C3=NC(=CC=C32)OC)C(CC(C)(C)C)=O)CC(C(=O)O)(C)C)C=C1 | C26H31ClN2O4
